US08232312B2
tert.butyl [(3,5-dichloro-phenylsulphonyl)-(1-phenylcarbamoyl-2,3-dihydro-1H-indol-5-yl)-amino]-acetate
990 mg tert.butyl [(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-acetate are dissolved in 10 ml dichloromethane. 598 mg potassium carbonate and 247 μl phenylisocyanate are added. After stirring overnight the solid is filtered off and washed twice with dichloromethane. The combined organic phases are evaporated down in vacuo and the residue is purified by chromatography on silica gel (cyclohexane/ethyl acetate 10:1 to 1:2).

reactant | tert.butyl [(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-acetate | 990 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCNC2=CC1)CC(=O)OC(C)(C)C | C20H22Cl2N2O4S
reactant | potassium carbonate | 598 mg | C([O-])([O-])=O.[K+].[K+]
reactant | phenylisocyanate | 247 μl | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | tert.butyl [(3,5-dichloro-phenylsulphonyl)-(1-phenylcarbamoyl-2,3-dihydro-1H-indol-5-yl)-amino]-acetate | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCN(C2=CC1)C(NC1=CC=CC=C1)=O)CC(=O)OC(C)(C)C | C27H27Cl2N3O5S
